US08629137B2
Step 2: (6-chloro-pyrimidin-4-yl)-(1,7-dimethyl-1H-indazol-5-yl)-methanone
Under an argon atmosphere 0.450 g (2.00 mmol) 5-bromo-1,7-dimethyl-1H-indazole in 25 mL THF were cooled to −75° C., combined with 1.40 mL (2.24 mmol) of a 1.6 molar n-butyllithium solution and stirred for 1 h at −75° C. Then 0.480 g (2.14 mmol) 6-chloro-pyrimidine-4-carboxylic acid methoxy-methyl-amide were added dropwise. The mixture was brought to 0° C. and stirred for a further hour. Then saturated sodium hydrogen carbonate solution was stirred in, the mixture was extracted with EtOAc, the organic phase was dried and evaporated down i. vac. The residue was triturated with DIPE, suction filtered and dried. The precipitate was purified by flash chromatography (Alox).

reactant | 5-bromo-1,7-dimethyl-1H-indazole | 2.00 mmol, 0.450 g | BrC=1C=C2C=NN(C2=C(C1)C)C | C9H9BrN2
reactant | n-butyllithium | 1.6 molar | C(CCC)[Li]
reactant | 6-chloro-pyrimidine-4-carboxylic acid methoxy-methyl-amide | 2.14 mmol, 0.480 g | CON(C(=O)C1=NC=NC(=C1)Cl)C | C7H8ClN3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (6-chloro-pyrimidin-4-yl)-(1,7-dimethyl-1H-indazol-5-yl)-methanone | ClC1=CC(=NC=N1)C(=O)C=1C=C2C=NN(C2=C(C1)C)C | C14H11ClN4O
